US06617329B2
4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopropylmethoxy-7-[2-(3-oxo-perhydro-pyrazino[2,1-c][1,4]oxazin-8-yl)-ethoxy]-quinazoline
0.25 ml of diisopropylethylamine and 260 mg of perhydro-pyrazino[2,1-c][1,4]oxazin-3-one x 2 trifluoroacetic acid are added to 150 mg of 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopropylmethoxy-7-(2-bromoethoxy)-quinazoline in 15 ml of acetonitrile. The reaction mixture is stirred for one hour at ambient temperature and then refluxed for two hours. Then 70 mg of potassium carbonate and 75 mg of sodium iodide are added. The reaction mixture is refluxed for about another 14 hours, during which time a total of another 175 mg of perhydro-pyrazino[2,1-c][1,4]oxazin-3-one x 2 trifluoroacetic acid and 300 mg of potassium carbonate are added successively until the reaction is complete. For working up the inorganic salts are filtered off and the filtrate is evaporated down in vacuo. The flask residue is chromatographed over a silica gel column with methylene chloride/methanol (95:5) as eluant. The desired product is obtained as a light brown resin. Yield: 27 mg (16% of theory),

reactant | diisopropylethylamine | 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | perhydro-pyrazino[2,1-c][1,4]oxazin-3-one | 260 mg | C1OC(CN2C1CNCC2)=O | C7H12N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopropylmethoxy-7-(2-bromoethoxy)-quinazoline | 150 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OCC1CC1)OCCBr | C20H18BrClFN3O2
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 75 mg | [I-].[Na+]
reactant | perhydro-pyrazino[2,1-c][1,4]oxazin-3-one | 175 mg | C1OC(CN2C1CNCC2)=O | C7H12N2O2
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-cyclopropylmethoxy-7-[2-(3-oxo-perhydro-pyrazino[2,1-c][1,4]oxazin-8-yl)-ethoxy]-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OCC1CC1)OCCN1CC2COC(CN2CC1)=O | C27H29ClFN5O4
